2187-09-08 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on milrinone drip
   - CRP 17.7, ESR 4
   - Iron studies - Low iron, low TIBC, elevated TIBC consistent with
   anemia of chronic disease
   - Uptitrated beta-blocker to 75mg PO TID
   - Urine culture (-) x3; blood cultures no growth to date
   - At 2300, UOP 30-35cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-9-7**] 12:19 AM
   Vancomycin - [**2187-9-7**] 07:44 AM
   Metronidazole - [**2187-9-8**] 04:00 AM
   Infusions:
   Milrinone - 0.75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2187-9-7**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-8**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (87 - 109) bpm
   BP: 89/56(66) {80/56(57) - 112/81(89)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.6 kg (admission): 88.6 kg
   Height: 63 Inch
             Total In:
                                                                  1,997 mL
                                                                    398 mL
   PO:
                                                                    800 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,197 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    305 mL
   Urine:
                                                                  1,020 mL
                                                                    305 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: JVP 16cm, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: tachycardic, irregularly irregular, [**2-1**] HSM at LLSB and [**1-3**] HSM at
   apex, no thrill
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   RECTAL: non tender prostate, yellow liquid stool in rectal vault,
   guaiac negative
   EXT: trace pedal edema of ankles, non pitting, no palpable cords
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities.
   Labs / Radiology
   239 K/uL
   10.2 g/dL
   109 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   29.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2187-9-6**]  10:28 AM
                             [**2187-9-6**]  10:56 AM
                             [**2187-9-6**]  08:45 PM
                            [**2187-9-7**]  04:51 AM
                            [**2187-9-8**]  04:01 AM
   WBC
   9.7
   9.4
   8.5
   Hct
   32.5
   33.2
   29.8
   Plt
   271
   240
   239
   Cr
   1.1
   1.0
   1.0
   0.9
   TropT
   <0.01
   TCO2
   20
   Glucose
   133
   151
   127
   109
   Other labs: PT / PTT / INR:14.8/38.5/1.3, CK / CKMB /
   Troponin-T:235/4/<0.01, ALT / AST:49/56, Alk Phos / T Bili:72/0.8,
   Differential-Neuts:84.6 %, Lymph:8.9 %, Mono:4.8 %, Eos:1.6 %,
   Fibrinogen:374 mg/dL, Lactic Acid:0.8 mmol/L, LDH:205 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, OTHER
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   52 year-old male with a history of dilated cardiomyopathy with who
   presents with fever, hypotension, and diarrhea
   # Hypotension: Initially concerning for SIRS/sepsis given that patient
   was febrile and tachypneic with a leukocytosis.  Symptoms have since
   resolved and patient has been hemodynamically stable overnight. Patient
   had one BM overnight that was not diarrhea, as well as one episode of
   emesis just prior to BM.  Hypotension likely intravascular volume
   depletion from gastroenteritis that is now resolved in setting of
   patient with significant systolic heart failure.
   - Monitor VS
   - Continue levofloxacin/flagyl x24 hours pending culture data.  Will
   plan to discontinue tomorrow if cultures negative.
   - C. diff x3, patient had one BM overnight, unable to collect sample
   due to inadequate volume.
   # Dilated cardiomyopathy: Patient followed by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] of
   cardiology.  TTE yesterday demonstrates EF of 20%, significant RA and
   [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2569**], and left to right shunt.  Metoprolol restarted
   yesterday.
   - Continue ASA, statin, metoprolol
   - Hold ACE-I and lasix
   - Follow-up with Dr. [**First Name (STitle) **]/cardiology regarding etiology (viral
   myocarditis?) and possible transplant.
   - CK elevated since last admission, question if this is related to
   myocarditis, will check ESR/CRP.
   # Hyponatremia: Patient with new hyponatremia today to 131, likely due
   to both intravascular volume depletion and CHF.
   - Trend chemistries
   - Free water restriction of 1L
   # Coagulopathy: Patient with elevated PT, aPTT, and INR initially
   concerning for DIC given sepsis picture.  Peripheral smear negative for
   schistocytes, likely represents underlying chronic liver disease or
   congestive hepatopathy as patient also with elevated transaminases.
   - Trend coags
   # SVT: Patient continues to have HR>100.  Restarted on metoprolol
   yesterday to 37.5 mg tid.
   - Increase to 50 mg po tid.
   - Consider digoxin
   # Anemia: guaiac negative x 2.  baseline hct 39-42, now 33.2. Iron
   studies consistent with anemia of chronic disease. MCV =
   - Trend hct
   # FEN: Regular, replete as necessary
   # Access : 2 PIV, arterial line
   # PPx: Heparin, PPI
   # Code:  FULL
   # Dispo: ICU level of care
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2187-9-6**] 08:37 AM
   Arterial Line - [**2187-9-6**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-09-08 10:46:00 Physician Attending Progress Note
24 Hour Events:
   Overall did well yesterday.  Started on milrinone at request of
   cardiology and tolerted without arrhythmia or hypotension.  Overall no
   complaints today and clinically stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-9-7**] 12:19 AM
   Metronidazole - [**2187-9-8**] 04:00 AM
   Vancomycin - [**2187-9-8**] 08:00 AM
   Infusions:
   Milrinone - 0.75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix)
   Heparin Sodium (Prophylaxis)
   ASA 81mg
   Lopressor 75mg q8h
   Flowsheet Data as of  [**2187-9-8**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (81 - 109) bpm
   BP: 92/63(70) {82/50(56) - 99/70(75)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.6 kg (admission): 88.6 kg
   Height: 63 Inch
             Total In:
                                                                  1,997 mL
                                                                  1,099 mL
   PO:
                                                                    800 mL
                                                                    430 mL
   TF:
   IVF:
                                                                  1,197 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    475 mL
   Urine:
                                                                  1,020 mL
                                                                    475 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                    624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  4L
   SpO2: 99%
   Physical Examination
   Gen:  Sleeping but awakened easily; NAD
   Chest:  Few crackles at L base
   CV:  JVD elevated IR/IR
   Abd: s/nt/mildly distended
   Ext:  1+ edema B
   Labs / Radiology
   10.2 g/dL
   239 K/uL
   109 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   29.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2187-9-6**]  10:28 AM
                             [**2187-9-6**]  10:56 AM
                             [**2187-9-6**]  08:45 PM
                            [**2187-9-7**]  04:51 AM
                            [**2187-9-8**]  04:01 AM
   WBC
   9.7
   9.4
   8.5
   Hct
   32.5
   33.2
   29.8
   Plt
   271
   240
   239
   Cr
   1.1
   1.0
   1.0
   0.9
   TropT
   <0.01
   TCO2
   20
   Glucose
   133
   151
   127
   109
   Other labs: PT / PTT / INR:14.8/38.5/1.3, CK / CKMB /
   Troponin-T:235/4/<0.01, ALT / AST:49/56, Alk Phos / T Bili:72/0.8,
   Differential-Neuts:84.6 %, Lymph:8.9 %, Mono:4.8 %, Eos:1.6 %,
   Fibrinogen:374 mg/dL, Lactic Acid:0.8 mmol/L, LDH:205 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   52M with history of CHF (EF 20-25%) related to likely viral
   myocarditis, admitted with fever/abd pain/diarrhea and hypotension
   likely related to hypovolemia and viral gastroenteritis.
   1.  Hypotension: resolved x 2 days
 related to hypovolemia and viral
   gastroenteritis.  All microbiology data is negative and he has no
   ongoing signs of infection.  His diarrhea has resolved.
   - will stop antibiotics today given no signs of infection or sepsis.
   2.  CHF
 severe CHF with EF 20%.  Does have faint basilar crackles and
   mild hypoxemia; is fluid overloaded.
   - currently on milrinone per cardiology
   - maximizing lopressor
   - will discuss with cardiology re-initiation of ace-inhibitor and
   diuresis
   ICU Care
   Nutrition:   Cardiac prudent diet, fluid/Na restrict
   Lines:
   16 Gauge - [**2187-9-6**] 08:37 AM
   Arterial Line - [**2187-9-6**] 12:12 PM
   Prophylaxis:
   DVT: heparin SQ, boots
   Stress ulcer: PPI
   Code status:   Full Code
   Disposition :  Plan to  transfer to CCU today given resolution of
   infectious symptoms for further management of his low EF.

2187-09-09 07:29:00 Physician Resident Progress Note
Chief Complaint: Heart failure, hypotension
   24 Hour Events:
   - Continued on milrinone gtt 0.75 mcg/kg/min
   - started lasix gtt --> I/O at 2300 was -3L, d/c lasix gtt, -1.1L
   today.
   - d/c all antibiotics
   - called out to CCU
   - Hematuria this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-9-7**] 12:19 AM
   Metronidazole - [**2187-9-8**] 04:00 AM
   Vancomycin - [**2187-9-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-8**] 12:09 PM
   Heparin Sodium (Prophylaxis) - [**2187-9-9**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-9**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (83 - 113) bpm
   BP: 110/65(76) {92/50(63) - 119/81(87)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.8 kg (admission): 88.6 kg
   Height: 63 Inch
             Total In:
                                                                  2,162 mL
                                                                    630 mL
   PO:
                                                                  1,130 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,032 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  5,155 mL
                                                                  1,820 mL
   Urine:
                                                                  5,155 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,993 mL
                                                                 -1,190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GEN: NAD
   HEENT: MMM OP clear
   CV: Irregular S1+S2, III/VI HSM at LLSB and at apex
   Pulm: Bibasilar rales
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: trace LE edema.
   Neuro: CN II-XII intact
   Labs / Radiology
   261 K/uL
   10.9 g/dL
   108 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   31.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2187-9-6**]  10:28 AM
                             [**2187-9-6**]  10:56 AM
                             [**2187-9-6**]  08:45 PM
                            [**2187-9-7**]  04:51 AM
                            [**2187-9-8**]  04:01 AM
                            [**2187-9-8**]  10:15 PM
                            [**2187-9-9**]  05:04 AM
   WBC
   9.7
   9.4
   8.5
   8.0
   Hct
   32.5
   33.2
   29.8
   31.7
   Plt
   271
   240
   239
   261
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   1.1
   TropT
   <0.01
   TCO2
   20
   Glucose
   133
   151
   127
   109
   115
   108
   Other labs: PT / PTT / INR:13.9/38.4/1.2, CK / CKMB /
   Troponin-T:235/4/<0.01, ALT / AST:59/60, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:10.0 %, Mono:9.0 %,
   Eos:1.0 %, Fibrinogen:374 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Microbiology: NGTD
   Assessment and Plan
   Mr. [**Known lastname 2568**] is a 52 year-old male with a history of dilated
   cardiomyopathy with who presents with fever, hypotension, and diarrhea.
   .
   # Hypotension: Likely secondary to intravascular volume depletion
   rather than sepsis.  Patient has been hemodynamically stable, culture
   negative, and antimicrobials were discontinued yesterday.
   - Monitor VS
   .
   # Cardiomyopathy/heart failure: TTE demonstrates significant systolic
   dysfunction with EF of 20% and significant TR/MR.  [**Name13 (STitle) 54**] Dr. [**First Name (STitle) **], he
   has been started on milrinone. He has also been titrated up on
   metoprolol to 75 mg po tid.  Lasix gtt started yesterday and patient
   was -3L net so furosemide was held.  Patient has continued to diurese
   and is -1.3L since midnight, with LOS net +760cc.
   - Continue ASA, statin, metoprolol
   - Continue milrinone
   - Per Dr. [**First Name (STitle) **], restart lasix gtt.
   - Continue to hole ACE-I.
   - Follow-up with Dr. [**First Name (STitle) **]
   .
   # Hematuria: Likely secondary to traumatic FC versus UTI.
   - Check UA.
   .
   # Atrial fibrillation: Continue ASA, rate 80-90s.
   - Continue metoprolol at current dose with hold parameters.
   .
   # Coagulopathy: Patient with elevated PT, aPTT, and INR initially
   concerning for DIC given sepsis picture.  Peripheral smear negative for
   schistocytes, likely represents congestive hepatopathy as patient also
   with elevated transaminases.
   - Trend coags
   .
   # Hyponatremia: Resolved with 1L fluid restriction.
   .
   # Anemia: guaiac negative x 2.  baseline hct 39-42, now 31.7. Iron
   studies consistent with anemia of chronic disease.
   - Trend hct
   .
   # FEN: Regular, replete as necessary
   # Access : 2 PIV, arterial line
   # PPx: Heparin, PPI
   # Code:  FULL
   # Dispo: Transfer to CCU today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2187-9-6**] 08:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-09-09 09:10:00 Physician Attending Progress Note
24 Hour Events:
   Mr. [**Known lastname 2568**] was stable overnight, and is without complaints today.  He
   was continued on milrinone yesterday, and started lasix gtt with goal
   of improving volume status.  He had significant diuresis to > 3L, so
   lasix gtt was stopped overnight.
   Allergies:
   No Known Drug Allergies
   Medications:
   Pantoprazole (Protonix) - [**2187-9-8**] 12:09 PM
   Heparin Sodium (Prophylaxis)
   Lipitor
   ASA
   Lopressor 75mg tid
   PPI
   Flowsheet Data as of  [**2187-9-9**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (83 - 113) bpm
   BP: 110/65(76) {93/50(63) - 119/81(87)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.8 kg (admission): 88.6 kg
   Height: 63 Inch
             Total In:
                                                                  2,162 mL
                                                                    637 mL
   PO:
                                                                  1,130 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,032 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  5,155 mL
                                                                  1,935 mL
   Urine:
                                                                  5,155 mL
                                                                  1,935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,993 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: 4L Nasal cannula
   SpO2: 97%
   Physical Examination
   Gen:  Not acutely ill appearing
   Chest: bibasilar rales
   CV: +JVD, IR/IR
   Abd: s/nt/mildly distended
   Ext: minimal edema
   Labs / Radiology
   10.9 g/dL
   261 K/uL
   108 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   31.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2187-9-6**]  10:28 AM
                             [**2187-9-6**]  10:56 AM
                             [**2187-9-6**]  08:45 PM
                            [**2187-9-7**]  04:51 AM
                            [**2187-9-8**]  04:01 AM
                            [**2187-9-8**]  10:15 PM
                            [**2187-9-9**]  05:04 AM
   WBC
   9.7
   9.4
   8.5
   8.0
   Hct
   32.5
   33.2
   29.8
   31.7
   Plt
   271
   240
   239
   261
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   1.1
   TropT
   <0.01
   TCO2
   20
   Glucose
   133
   151
   127
   109
   115
   108
   Other labs: PT / PTT / INR:13.9/38.4/1.2, CK / CKMB /
   Troponin-T:235/4/<0.01, ALT / AST:59/60, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:10.0 %, Mono:9.0 %,
   Eos:1.0 %, Fibrinogen:374 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   52M with non-ischemic cardiomyopathy; admitted with hypovolemia due to
   possible viral gastroenteritis.
   1.  CV-Pump:  non-ischemic CM.  Diuresed well yesterday with lasix gtt
   and milrinone.
   - Plan to transfer to CCU today for monitoring and continuation of
   inotropes.
   - Fluid balance goal of negative 1-1.5L today
   - Continue BB, will need restart of ace-inhibitor.
   ICU Care
   Nutrition:   Cardiac prudent, fluid/Na restrict
   Glycemic Control:
   Lines:
   16 Gauge - [**2187-9-6**] 08:37 AM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer: PPI
   Code status:   Full Code
   Disposition :  Transfer to CCU today